US09290451B2
c) 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid {(S)-3-methyl-1-[(7-nitro-benzo[1,2,5]oxadiazol-4-ylamino)-methyl]-butyl}-amide
To a colorless solution of 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-aminomethyl-3-methyl-butyl)-amide (30 mg, 83.2 μmol) in THF (555 μl) was added 7-nitro-2,1,3-benzoxadiazol-4-amine (CAN 10199-91-4, 19.9 mg, 100 μmol). The reaction mixture was stirred at room temperature for 30 minutes, followed by stirring at reflux temperature for 2 hours. After cooling to room temperature the mixture was poured into water (20 mL) and extracted with ethyl acetate (20 mL). The organic phase was washed with brine; and the aqueous phases were extracted with ethyl acetate. The organic phases were combined, dried with Na2SO4, and concentrated in vacuo. The black, solid residue was purified by flash chromatography (basic silica gel, 10 g, 0% to 100% ethyl acetate in a 1:1 mixture of dichloromethane and heptane) to give the title compound (25 mg, 57%) as brown solid; LC-MS (UV peak area/ESI) 100%, 524.2609 (M+H)+.

reactant | 6-cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid ((S)-1-aminomethyl-3-methyl-butyl)-amide | 83.2 μmol, 30 mg | NC[C@H](CC(C)C)NC(=O)C1=NC(=C(C=C1)N1CCCC1)OCC1CC1 | C20H32N4O2
reactant | 7-nitro-2,1,3-benzoxadiazol-4-amine | 100 μmol, 19.9 mg | [N+](=O)([O-])C1=CC=C(C=2C1=NON2)N | C6H4N4O3
reactant | water | 20 mL | O | H2O
solvent | THF | 555 μl | C1CCOC1 | C4H8O
product | 6-Cyclopropylmethoxy-5-pyrrolidin-1-yl-pyridine-2-carboxylic acid {(S)-3-methyl-1-[(7-nitro-benzo[1,2,5]oxadiazol-4-ylamino)-methyl]-butyl}-amide | 25 mg, 57% | CC(C[C@@H](CNC1=CC=C(C=2C1=NON2)[N+](=O)[O-])NC(=O)C2=NC(=C(C=C2)N2CCCC2)OCC2CC2)C | C26H33N7O5
